US06455550B1
Preparation of N-[[1-(2-Methoxyethyl)cyclopentyl]carbonyl]-N-methyl-4-nitro-L-phenylalanine Methyl Ester
To a suspension of N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester (2.73 mmol, 1.03 g) and silver oxide (10.9 mmol, 2.53 g) in DMF (25 mL) was added methyl iodide (160 mmol, 10 mL) at room temperature. The suspension was stirred for 2 days at room temperature at which time TLC analysis of the mixture indicated the presence of starting material. An additional 10 mL (160 mmol) of methyl iodide and 2 g (8.6 mmol) of silver oxide were added, respectively. The suspension was stirred for 24 h and the solid was filtered through a pad of celite and was washed with ethyl acetate (30 mL) and methanol (30 mL). The filtrate was concentrated and the residue was extracted with ethyl acetate (3×30 mL).The organic layer was washed with water (20 mL) and brine solution (20 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent gave a crude compound which was purified by silica gel column chromatography to obtain 530 mg (50%) as a light brown oil. HR MS (C20H28N2O6): Obs. mass, 392.1940. Calcd. mass, 392.1947 (M+).

reactant | N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester | 2.73 mmol, 1.03 g | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N2O6
reactant | methyl iodide | 160 mmol, 10 mL | CI | CH3I
reactant | methyl iodide | 160 mmol, 10 mL | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | silver oxide | 10.9 mmol, 2.53 g | [Ag]=O
catalyst | silver oxide | 8.6 mmol, 2 g | [Ag]=O
product | N-[[1-(2-Methoxyethyl)cyclopentyl]carbonyl]-N-methyl-4-nitro-L-phenylalanine Methyl Ester | COC([C@@H](N(C)C(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H28N2O6
